US03972880
C. 2-Methyl-4-piperidinobutyric acid hydrochloride
6.5 g. (0.030 mole) of ethyl 2-methyl-4-piperidinobutyrate was combined with a mixture of 45 ml. of water and 45 ml. of concentrated hydrochloric acid and heated at reflux for 16 hours. The solution was concentrated under reduced pressure (water aspirator) to give a residue which crystallized upon addition of 50 ml. of diethyl ether. The ether was decanted, and the solid was triturated with acetone and filtered. Recrystallization from acetic acid/acetone gave 3.38 g. of colorless crystals, m.p. 166°-168°C. and a second crop of 1.27 g. of solid, m.p. 165°-168°C. The total yield for both batches was 69%.

reactant | ethyl 2-methyl-4-piperidinobutyrate | 0.030 mole | CC(C(=O)OCC)CCN1CCCCC1 | C12H23NO2
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 2-Methyl-4-piperidinobutyric acid hydrochloride | Cl.CC(C(=O)O)CCN1CCCCC1 | InChI=1S/C10H19NO2.ClH/c1-9(10(12)13)5-8-11-6-3-2-4-7-11;/h9H,2-8H2,1H3,(H,12,13);1H
